### PR TITLE
feat(GreensOpenProblems): 4

### LINKED ISSUE #892: Green's Open Problems #4
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.1 Problem 4

What is the largest product-free set in the alternating group $A_n$?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by gregovin**
resolves #892

### CODE REVIEW

**Comment by gregovin** [comment]
Accidentally tagged the wrong issue at first, sorry about that

**Review by YaelDillies — COMMENTED** [review]
Could you make sure this follows the usual style of lean files? In particular,
* Linebreaks between decls
* Spaces around typing judgements `:`, `∧`, etc...
* At most 100 chars per line
* Predicates in `UpperCamelCase`
* No use of `@`

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
...
+/-!
+# Ben Green's Open Problem 4
+
+*Reference:* [Ben Green's Open Problem 4](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.4 Problem 4)
+-/
+
+namespace Green4
+def A (n : ℕ) := alternatingGroup (Fin n)
+
+def ProdFree {n : ℕ} (S : Set (Equiv.Perm (Fin n))) : Prop := ∀x ∈ S, ∀y ∈ S, ∀z ∈ S, x*y ≠ z
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]: Thanks! This is much better but you're still missing some spaces here and below
```suggestion
def ProdFree {n : ℕ} (S : Set (Equiv.Perm (Fin n))) : Prop := ∀ x ∈ S, ∀ y ∈ S, ∀ z ∈ S, x * y ≠ z
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Ben Green's Open Problem 4
+
+*Reference:* [Ben Green's Open Problem 4](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.4 Problem 4)
+-/
+
+namespace Green4
+def A (n : ℕ) := alternatingGroup (Fin n)
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]: I would inline it since you only use it once

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+def LargestProdFree (n : ℕ) (S : Set (Equiv.Perm (Fin n))) : Prop := (∀x ∈ S , x ∈ A n) ∧
+  ProdFree S ∧ (∀S' : Set (Equiv.Perm (Fin n)), (∀x ∈ S',x ∈ A n) → ProdFree S' →
+    S'.ncard ≤ S.ncard)
+
+/-Green's Open Problem 4: What is the largest product-free set in the alternating group A_n?-/
+@[category research open,AMS 20]
+theorem green_4 (n : ℕ) : LargestProdFree n answer(sorry) := sorry
+
+def extremalFamily {n : ℕ} (x : Fin n) (I : Set (Fin n)) : Set (Equiv.Perm (Fin n)) :=
+  {π | π ∈ A n ∧ π x ∈ I ∧ (I.image π) ∩ I = ∅}
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
  {π | π ∈ A n ∧ π x ∈ I ∧ Disjoint (I.image π) I}
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 4]
```diff
@@ -0,0 +1,46 @@
...
+namespace Green4
+def A (n : ℕ) := alternatingGroup (Fin n)
+
+def ProdFree {n : ℕ} (S : Set (Equiv.Perm (Fin n))) : Prop := ∀x ∈ S, ∀y ∈ S, ∀z ∈ S, x*y ≠ z
+
+def LargestProdFree (n : ℕ) (S : Set (Equiv.Perm (Fin n))) : Prop := (∀x ∈ S , x ∈ A n) ∧
+  ProdFree S ∧ (∀S' : Set (Equiv.Perm (Fin n)), (∀x ∈ S',x ∈ A n) → ProdFree S' →
+    S'.ncard ≤ S.ncard)
+
+/-Green's Open Problem 4: What is the largest product-free set in the alternating group A_n?-/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
/-- What is the largest product-free set in the alternating group A_n?-/
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 5]
```diff
@@ -0,0 +1,46 @@
...
+def extremalFamily {n : ℕ} (x : Fin n) (I : Set (Fin n)) : Set (Equiv.Perm (Fin n)) :=
+  {π | π ∈ A n ∧ π x ∈ I ∧ (I.image π) ∩ I = ∅}
+
+/-In the case of large n, the problem was solved in
+[On the largest product-free subsets of the alternating groups](https://arxiv.org/pdf/2205.15191)
+-/
+@[category research solved, AMS 20]
+theorem large_green_4: ∃N : ℕ, ∀n > N, ∀S, LargestProdFree n S → ∃x I, S = extremalFamily x I ∨
+  S = (extremalFamily x I).image Equiv.symm := sorry
+end Green4
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
    S = (extremalFamily x I).image Equiv.symm := by
  sorry

end Green4
```
Same everywhere else

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 6]
```diff
@@ -0,0 +1,46 @@
...
+-/
+
+namespace Green4
+def A (n : ℕ) := alternatingGroup (Fin n)
+
+def ProdFree {n : ℕ} (S : Set (Equiv.Perm (Fin n))) : Prop := ∀x ∈ S, ∀y ∈ S, ∀z ∈ S, x*y ≠ z
+
+def LargestProdFree (n : ℕ) (S : Set (Equiv.Perm (Fin n))) : Prop := (∀x ∈ S , x ∈ A n) ∧
+  ProdFree S ∧ (∀S' : Set (Equiv.Perm (Fin n)), (∀x ∈ S',x ∈ A n) → ProdFree S' →
+    S'.ncard ≤ S.ncard)
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
def LargestProdFree (n : ℕ) (S : Set <| alternatingGroup <| Fin n) : Prop :=
  MaximalFor ProdFree Set.ncard S
```
... at which point you can inline this definition

File: FormalConjectures/GreensOpenProblems/4.lean (hunk 1 above)
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀x ∈ S, ∀y ∈ S, ∀z ∈ S, x*y ≠ z
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 7]
```diff
@@ -0,0 +1,46 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/GreensOpenProblems/4.lean (hunk 6 above)
Comment (gregovin) [reply FormalConjectures/GreensOpenProblems/4.lean]: Not sure how I could inline that definition without leaving the type of set ambigious, especially considering the bellow suggestion

**Comment by gregovin** [comment]
I feel like (fun x=>x^-1) I put in large_green_4 is silly, but google is being remarkably unhelpful with telling me the name of a function that will work here now that it's been upgraded to the subtype associated with the alternating group

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 8]
```diff
@@ -0,0 +1,46 @@
...
+*Reference:* [Ben Green's Open Problem 4](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.4 Problem 4)
+-/
+
+namespace Green4
+def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀ x ∈ S, ∀ y ∈ S, ∀ z ∈ S, x * y ≠ z
+
+def LargestProdFree (n : ℕ) (S : Set <| alternatingGroup <| Fin n) : Prop :=
+  MaximalFor ProdFree Set.ncard S
+
+/-- What is the largest product-free set in the alternating group A_n?-/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
/-- What is the largest product-free set in the alternating group $A_n$? -/
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 9]
```diff
@@ -0,0 +1,46 @@
...
+@[category research open,AMS 20]
+theorem green_4 (n : ℕ) : LargestProdFree n answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
/-- What is the largest product-free set in the alternating group A_n?-/
@[category research open,AMS 20]
theorem green_4 (n : ℕ) : 
    MaximalFor (M := alternatingGroup <| Fin n) ProdFree Set.ncard answer(sorry) := by
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 10]
```diff
@@ -0,0 +1,46 @@
...
+-/
+
+namespace Green4
+def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀ x ∈ S, ∀ y ∈ S, ∀ z ∈ S, x * y ≠ z
+
+def LargestProdFree (n : ℕ) (S : Set <| alternatingGroup <| Fin n) : Prop :=
+  MaximalFor ProdFree Set.ncard S
+
+/-- What is the largest product-free set in the alternating group A_n?-/
+@[category research open,AMS 20]
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
@[category research open, AMS 20]
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 11]
```diff
@@ -0,0 +1,46 @@
...
+theorem green_4 (n : ℕ) : LargestProdFree n answer(sorry) := by
+  sorry
+
+def extremalFamily {n : ℕ} (x : Fin n) (I : Set (Fin n)) : Set <| alternatingGroup <| Fin n :=
+  {π | π.val x ∈ I ∧ Disjoint (I.image π) I}
+
+/-In the case of large n, the problem was solved in
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
/-- In the case of large n, the problem was solved in
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 12]
```diff
@@ -0,0 +1,46 @@
...
+[On the largest product-free subsets of the alternating groups](https://arxiv.org/pdf/2205.15191)
+-/
+@[category research solved, AMS 20]
+theorem large_green_4: ∃N : ℕ, ∀n > N, ∀S, LargestProdFree n S → ∃x I, S = extremalFamily x I ∨
+    S = (extremalFamily x I).image (fun x=>x⁻¹) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
theorem large_green_4 :
    \forall\^f n in atTop, ∀ S : Set <| alternatingGroup <| Fin n,
      MaximalFor Set.ncard S \iff
        ∃ x I, S = extremalFamily x I ∨ S = (extremalFamily x I).image (\cdot⁻¹) := by
```
or is the converse not true?

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 13]
```diff
@@ -0,0 +1,46 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Ben Green's Open Problem 4
+
+*Reference:* [Ben Green's Open Problem 4](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.4 Problem 4)
+-/
+
+namespace Green4
+def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀ x ∈ S, ∀ y ∈ S, ∀ z ∈ S, x * y ≠ z
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion

/-- Explanation here -/
def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀ x ∈ S, ∀ y ∈ S, ∀ z ∈ S, x * y ≠ z
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 14]
```diff
@@ -0,0 +1,46 @@
...
+
+def LargestProdFree (n : ℕ) (S : Set <| alternatingGroup <| Fin n) : Prop :=
+  MaximalFor ProdFree Set.ncard S
+
+/-- What is the largest product-free set in the alternating group A_n?-/
+@[category research open,AMS 20]
+theorem green_4 (n : ℕ) : LargestProdFree n answer(sorry) := by
+  sorry
+
+def extremalFamily {n : ℕ} (x : Fin n) (I : Set (Fin n)) : Set <| alternatingGroup <| Fin n :=
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean:41]: Can you add a docstring here too?

File: FormalConjectures/GreensOpenProblems/4.lean (hunk 12 above)
Comment (gregovin) [reply FormalConjectures/GreensOpenProblems/4.lean]: The converse is not true because some extremal families are clearly much smaller than others. For a trivial example, for any x and S containing x, (extremalFamily x S) is empty (because if it had an element pi, pi(x) would be in S and pi(S))

The paper posits that the relevant extremal families have have |S| is close to C*sqrt(n) for some constant C.

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 15]
```diff
@@ -0,0 +1,52 @@
...
+
+/-!
+# Ben Green's Open Problem 4
+
+*Reference:* [Ben Green's Open Problem 4](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.4 Problem 4)
+-/
+
+namespace Green4
+/--A set is product-free if for some * operation, there are no elements in the set x,y,z such that x*y=z
+-/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion

/-- A set in a monoid is product-free if there are no elements `x, y, z` in the set such that
`x * y = z`. -/
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 16]
```diff
@@ -0,0 +1,52 @@
...
+def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀ x ∈ S, ∀ y ∈ S, ∀ z ∈ S, x * y ≠ z
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀ x ∈ S, ∀ y ∈ S, x * y \nin S
```
equivalent but more idiomatic

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 17]
```diff
@@ -0,0 +1,52 @@
...
+/-- What is the largest product-free set in the alternating group $A_n$?-/
+@[category research open, AMS 20]
+theorem green_4 (n : ℕ) :
+    MaximalFor (ProdFree (M := alternatingGroup <| Fin n)) Set.ncard answer(sorry) := by
+  sorry
+
+/-- Defines a family of subsets of $A_n$ where each permutation π in a subset obeys π(x)∈I and ∀v∈I,
+π(v)∉I for fixed x and I. It is easy to demonstrate that such a subset is product-free, because for
+any a,b,c in such a set, (a*b) (x)=a(b(x))∉I but c(x)
+-/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]: Can you latex this?

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 18]
```diff
@@ -0,0 +1,52 @@
...
+  {π | π.val x ∈ I ∧ Disjoint (I.image π) I}
+
+/-- In the case of large n, the problem was solved in
+[On the largest product-free subsets of the alternating groups](https://arxiv.org/pdf/2205.15191).
+Specifically, this theorem formalizes the statement of theorem 1.1 in the mentioned paper
+-/
+@[category research solved, AMS 20]
+theorem large_green_4: ∀ᶠn in Filter.atTop,
+  ∀S, MaximalFor (ProdFree (M := alternatingGroup <| Fin n)) Set.ncard S →
+  ∃x I, S = extremalFamily x I ∨ S = (extremalFamily x I).image (·⁻¹) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
theorem large_green_4 : ∀ᶠ n in .atTop,
    ∀ S, MaximalFor (ProdFree (M := alternatingGroup <| Fin n)) Set.ncard S →
    ∃ x I, S = extremalFamily x I ∨ S = (extremalFamily x I).image (·⁻¹) := by
```

File: FormalConjectures/GreensOpenProblems/4.lean (hunk 6 above)
Comment (YaelDillies) [reply FormalConjectures/GreensOpenProblems/4.lean]: Looks like that worked fine

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 19]
```diff
@@ -0,0 +1,53 @@
...
+*Reference:* [Ben Green's Open Problem 4](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.4 Problem 4)
+-/
+
+namespace Green4
+
+/-- A set in a monoid is product-free if there are no elements `x, y, z` in the set such that
+`x * y = z`. -/
+def ProdFree {M : Type*} [Monoid M] (S : Set M) : Prop := ∀ x ∈ S, ∀ y ∈ S, x * y ∉ S
+
+/-- What is the largest product-free set in the alternating group $A_n$?-/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
/-- What is the largest product-free set in the alternating group $A_n$? -/
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 20]
```diff
@@ -0,0 +1,53 @@
...
+@[category research open, AMS 20]
+theorem green_4 (n : ℕ) :
+    MaximalFor (ProdFree (M := alternatingGroup <| Fin n)) Set.ncard answer(sorry) := by
+  sorry
+
+/-- Defines a family of subsets of $A_n$ where each permutation $\pi$ in a subset obeys $\pi(x)$ and $\forall v \in I$,
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]: Can you make sure all lines are under 100 chars?

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 21]
```diff
@@ -0,0 +1,53 @@
...
+-/
+def extremalFamily {n : ℕ} (x : Fin n) (I : Set (Fin n)) : Set <| alternatingGroup <| Fin n :=
+  {π | π.val x ∈ I ∧ Disjoint (I.image π) I}
+
+/-- In the case of large n, the problem was solved in
+[On the largest product-free subsets of the alternating groups](https://arxiv.org/pdf/2205.15191).
+Specifically, this theorem formalizes the statement of theorem 1.1 in the mentioned paper
+-/
+@[category research solved, AMS 20]
+theorem large_green_4: ∀ᶠ n in .atTop,
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
theorem large_green_4 : ∀ᶠ n in .atTop,
```

File: FormalConjectures/GreensOpenProblems/4.lean [hunk 22]
```diff
@@ -0,0 +1,53 @@
...
+  ∀ S, MaximalFor (ProdFree (M := alternatingGroup <| Fin n)) Set.ncard S →
+  ∃ x I, S = extremalFamily x I ∨ S = (extremalFamily x I).image (·⁻¹) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/4.lean]:
```suggestion
    ∀ S, MaximalFor (ProdFree (M := alternatingGroup <| Fin n)) Set.ncard S →
    ∃ x I, S = extremalFamily x I ∨ S = (extremalFamily x I).image (·⁻¹) := by
```
